US08629168B2
c) 1-(2-Methoxy-ethyl)-4-(2-methyl-4-nitro-phenyl)-piperazine
A solution of 0.95 g (6.06 mmol) 2-fluoro-5-nitrotoluene and 0.99 g (6.67 mmol) 1-(2-methoxyethyl)piperazine in 10 ml dimethylacetamide is stirred at 120° C. for 20 h. After that the reaction mixture is poured on water and extracted 3× with EtOAc. The combined organic layers are washed with water and saturated NaCl solution, dried over MgSO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, EtOAc) to afford the title compound as an oil.

reactant | 2-fluoro-5-nitrotoluene | 6.06 mmol, 0.95 g | FC1=C(C=C(C=C1)[N+](=O)[O-])C | C7H6FNO2
reactant | 1-(2-methoxyethyl)piperazine | 6.67 mmol, 0.99 g | COCCN1CCNCC1 | C7H16N2O
solvent | dimethylacetamide | 10 ml | CC(=O)N(C)C | C4H9NO
product | 1-(2-Methoxy-ethyl)-4-(2-methyl-4-nitro-phenyl)-piperazine | COCCN1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C | C14H21N3O3
